datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[S:31][CH+:20][S:41]C1.C[C:11](C)=[CH2:10]>>C[C+:11](C)[CH2:10][CH:20]1[S:31]CCC[S:41]1 10,11=10,20"
"C1=CN(C[C@@H]2CCC[NH:10]2)C=N1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([NH+:10]1CCC[C@H]1CN1C=CN=C1)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:20](=[O:21])CCS1.C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>C[C:13]1=[O+:14][CH:10]([C:20]2([O-:21])CCSCC2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:10]1=[C:11]([O:12][Si:63](C)(C)C)[O:72]CC1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10]2(C)CC[O:72][C:11]2=[O+:12][Si:63](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:10]=[C:11](C)C.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[CH:10]([C+:11](C)C)[CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;20,21=21"
"CC(C)(C)[NH2:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC(C)(C)[NH2+:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1CC[N:10]([N:61]=[CH2:62])C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([N+:10]1([N:61]=[CH2:62])CCCC1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10=20;20,21=21"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82]>>C[C:81]([C:10]1([CH:20]2[CH:21]=[C:22](C3=CC=CC=C3)[O:23][C:32]3=[C:31]2C=CC=C3)CCC[O:72][C:61]1=[O:62])=[O:82] 10=20;20,21=21,22;22,23=23"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.CC[Hg:11][CH2:10]C>>CC[Hg+:11].C[CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2 10,11=10,20"
C1C[S:31][CH+:20][S:41]C1.C[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[C:64]1=[CH:63][CH:62]=[C:61]([S:10][CH:20]2[S:31]CCC[S:41]2)[CH:72]=[CH:73]1 10=20
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.[CH2-:10][N+:61]#[N:62]>>C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][N+:61]#[N:62])[C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1 10=20
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CC[O:33][C:31]([CH:20]([H:10])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[OH:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([OH+:10]C)[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([CH:11]([H:10])[C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1>>CC(C)(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[CH:11][C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O-:10])=[O:62])=C1>>C[CH:20]([O:10][C:61](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)=[O:62])[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10=20
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10=20
